US04902698
(a) Diethyl 2-(cyanomethyl)-2-(5-nitropyrid-2-yl)malonate
Sodium hydride (53% dispersion in oil) (5.17 g, 0.1 mole) was washed by decantation with hexane (2×150 ml), tetrahydrofuran (THF) (150 ml) and was finally suspended in THF (150 ml). Diethyl 2-(cyanomethyl)malonate (26.4 g, 0.11 mole) in THF (20 ml) was added dropwise over 45 minutes keeping the internal temperature at 18° C. to 22° C. (with ice bath cooling). The resulting suspension cleared over 15 minutes when 2-chloro-5-nitropyridine (14.22 g, 0.09 mole) was added to give a deep magenta solution. The resulting solution was refluxed for 3 hours and the solvent was removed on the rotary evaporator. The resulting oil was partitioned between water (200 ml) and chloroform (200 ml), the pH was adjusted to ~7 (concentrated hydrochloric acid), and the chloroform was run off. The aqueous layer was extracted with a further (2×250 ml) chloroform, the extracts were combined, dried over magnesium sulphate and the solvent was removed to give the title compound as an amber oil. Ether (25 ml) was added and the solution was allowed to crystallise to give the title compound (18.48 g). m.p. 66°-68° C.

reactant | Sodium hydride | 0.1 mole, 5.17 g | [H-].[Na+]
reactant | Diethyl 2-(cyanomethyl)malonate | 0.11 mole, 26.4 g | C(#N)CC(C(=O)OCC)C(=O)OCC | C9H13NO4
reactant | 2-chloro-5-nitropyridine | 0.09 mole, 14.22 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | hexane | 150 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | THF | 150 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | Diethyl 2-(cyanomethyl)-2-(5-nitropyrid-2-yl)malonate | C(#N)CC(C(=O)OCC)(C(=O)OCC)C1=NC=C(C=C1)[N+](=O)[O-] | C14H15N3O6
